US09403807B2
Step J: methyl 2-(4-amino-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate
Trifluoroacetic acid (4 mL) was added rapidly dropwise to a stirred solution of methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate (0.92 g, 2 mmol) in DCM (10 mL) at 0° C. After 1 h, the reaction was quenched by careful addition of saturated aqueous sodium bicarbonate, followed by extraction with ether. The organic layers were washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound. LC/MS m/z=361.1 [M+H]+.

reactant | Trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | 2 mmol, 0.92 g | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C24H26ClFN2O4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(4-amino-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C19H18ClFN2O2
